* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.49220293745e-09
.param C2=4.3904566347e-10
.param Csh=1.0677352482e-10
.param L1=2.45575011689e-07
.param Vsrc_amp=437.30797438
.param ne=4.11977431406e+14
.param nu_m=180356310.411

* Sources
Vsrc src 0 SIN(0 437.30797438 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 48.4621109873
Lbulk nb ns 2.68702053601e-07
Csh ns n 1.0677352482e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
